US06936619B2
5-Chloromethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
Triethylamine (160 μl, 1,16 mmol) and then methane sulphonyl chloride (72 μl, 0.92 mmol) were added to 5-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (202 mg, 0.77 mmol) (WO 02053558 p 59) in tetrahydrofuran (20 ml) and the mixture was stirred for 30 minutes. Tetrabutyl ammonium chloride (322 mg, 1.16 mmol) was added and the mixture was stirred for 2 hours at room temperature. The reaction mixture was diluted with ethyl acetate and the organic solution was washed with sodium hydrogen carbonate solution, dried over magnesium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel using methanol in dichloromethane as eluant (2:98) to give the title compound (100 mg).

reactant | Triethylamine | 1,16 mmol, 160 μl | C(C)N(CC)CC | C6H15N
reactant | methane sulphonyl chloride | 0.92 mmol, 72 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.77 mmol, 202 mg | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)CO | C15H21NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Tetrabutyl ammonium chloride | 1.16 mmol, 322 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloromethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)CCl | C15H20ClNO2
